US20010018525A1
step 3 (3,3″-Dichloro-5′-{[1-(4-phenyl-butoxymethyl)-cyclopropylmethyl]-carbamoyl}-[1,1′;3′,1″]terphenyl-2′-yloxy)-methyl methyl ether
To a round bottom flask with NaH (0.201 g, 5.03 mmol) and THF (50 mL) cooled to 0 °C. was added (3,3″-dichloro-5′-{[1-(hydroxymethyl)-cyclopropylmethyl]-carbamoyl} -[1,1′;3′,1″]terphenyl-2′-yloxy)methyl methyl ether (1.88 g, 3.87 mmol). The resulting solution was heated to reflux for 10 min. and then cooled back to room temperature. To this solution was added 15-crown-5 (0.308 mL, 1.55 mmol), tetrabutylarnrmonium iodide (0.573 g, 1.55 mmol), and finally 4-phenyl-butylbromide (3.30 g, 15.5 mmol) in THF (10 ml). The final mixture was heated to reflux for 18 h. At this point, the reaction mixture was quenched with MeOH (10 mL) and then diluted with EtOAc (400 mL). The organic layer was washed with 1 N HCl (40 mL), sat. aq. NaHCO3 (40 mL), and brine (40 ml) and then dried (MgSO4). After concentration, the residue was purified by the Biotage Flash 40 apparatus (10 to 30% EtOAc/petroleum ether gradient) to afford the product (0.777 g, 33%) as a solid; 1H NMR (CDCl3) δ0.48-0.58 (m, 2H), 0.58-0.67 (m, 2H), 1.47-1.56 (m, 4H), 2.40 (t, J=7.5 Hz, 2H), 2.73 (s, 3H), 3.38 (s, 2H), 3.38-3.48 (m, 4H), 4.40 (s, 2H), 7.07 (d, J=7.5 Hz, 2H), 7.12-7.26 (m, 3H), 7.31-7.42 (m, 4H), 7.42-7.53 (m, 3H), 7.62 (s, 2H), 7.77 (s, 2H); mass spectrum [(+) ESI], m/z 618 (M)+.

reactant | NaH | 5.03 mmol, 0.201 g | [H-].[Na+]
reactant | (3,3″-dichloro-5′-{[1-(hydroxymethyl)-cyclopropylmethyl]-carbamoyl} -[1,1′;3′,1″]terphenyl-2′-yloxy)methyl methyl ether | 3.87 mmol, 1.88 g | COCOC1=C(C=C(C=C1C1=CC(=CC=C1)Cl)C(NCC1(CC1)CO)=O)C1=CC(=CC=C1)Cl | C26H25Cl2NO4
reactant | 15-crown-5 | 1.55 mmol, 0.308 mL | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | iodide | 1.55 mmol, 0.573 g | [I-]
reactant | 4-phenyl-butylbromide | 15.5 mmol, 3.30 g | C1(=CC=CC=C1)CCCCBr | C10H13Br
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (3,3″-Dichloro-5′-{[1-(4-phenyl-butoxymethyl)-cyclopropylmethyl]-carbamoyl}-[1,1′;3′,1″]terphenyl-2′-yloxy)-methyl methyl ether | 0.777 g, 33% | COCOC1=C(C=C(C=C1C1=CC(=CC=C1)Cl)C(NCC1(CC1)COCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)Cl | C36H37Cl2NO4
